US07935688B2
(1) Synthesis of (4′-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2′-methyl-biphenyl-4-yl)-acetic Acid Methyl Ester
(4-Bromo-phenyl)acetic acid methyl ester (Tetrahedron Letters 44 (2003) 331-334; 28 mg, 0.122 mmol), palladium acetate (1.8 mg, 0.008 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl (6.6 mg, 0.016 mmol), potassium phosphate (52 mg, 0.246 mmol) and water (0.1 mL) were added to a solution of 2-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (Example 25-(4); 50 mg, 0.082 mmol) in toluene (1 mL). After replacement with nitrogen, the mixture was stirred at 100° C. for one hour. The reaction mixture was then poured into a saturated aqueous sodium bicarbonate solution, followed by extraction with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (hexane:ethyl acetate=4:1) to give the target compound as a colorless oil (44.9 mg, 86%).

reactant | (4-Bromo-phenyl)acetic acid methyl ester | 0.122 mmol, 28 mg | COC(CC1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxy-1,1′-biphenyl | 0.016 mmol, 6.6 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | potassium phosphate | 0.246 mmol, 52 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(4-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2-methyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.082 mmol, 50 mg | C(C)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)OCOC)C)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C32H39BF6O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.008 mmol, 1.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 0.1 mL | O | H2O
product | (4′-{1-ethyl-1-[3-methyl-4-(4,4,4-trifluoro-3-methoxymethoxy-3-trifluoromethyl-1-butynyl)-phenyl]-propyl}-2′-methyl-biphenyl-4-yl)-acetic Acid Methyl Ester | 44.9 mg, 86% | COC(CC1=CC=C(C=C1)C1=C(C=C(C=C1)C(CC)(C1=CC(=C(C=C1)C#CC(C(F)(F)F)(C(F)(F)F)OCOC)C)CC)C)=O | C35H36F6O4
